US08440689B2
B. Methyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-methyl-6-(1-methyl-1H-pyrazol-4-yl)pyrimidine-5-carboxylate
To a mixture of methyl 2-chloro-4-methyl-6-(1-methyl-1H-pyrazol-4-yl)pyrimidine-5-carboxylate (0.227 g, 0.851 mmol) and tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (0.182 g, 0.851 mmol) in DMA (3 mL) was added Et3N (0.356 mL, 2.55 mmol). The reaction mixture was heated at 90° C. for 4 h. The reaction mixture was cooled to RT and poured onto ice. The solid was filtered and dried under high vacuum to yield the title compound as an off-white foam (170 mg). [M+H] calc'd for C22H32N6O4, 445. found, 445.

reactant | methyl 2-chloro-4-methyl-6-(1-methyl-1H-pyrazol-4-yl)pyrimidine-5-carboxylate | 0.851 mmol, 0.227 g | ClC1=NC(=C(C(=N1)C)C(=O)OC)C=1C=NN(C1)C | C11H11ClN4O2
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.851 mmol, 0.182 g | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | Et3N | 2.55 mmol, 0.356 mL | CCN(CC)CC | C6H15N
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | Methyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-methyl-6-(1-methyl-1H-pyrazol-4-yl)pyrimidine-5-carboxylate | 170 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)C)C(=O)OC)C=1C=NN(C1)C | C22H32N6O4
